US06576643B2
c) (±)-10,11-Dihydro-2-(dimethylamino)methyl-7-fluoro-3-[3-(pyridin-2-ylamino)-1-propyloxy]-5H-dibenzo[a,d]cycloheptene-10-acetic Acid
Saponification was conducted according to the procedure of Example 6 (c), except substituting ethyl (±)-10,11-dihydro-2-(dimethylamino)methyl-7-fluoro-3-[3-(pyridin-2-ylamino)-1-propyloxy]-5H-dibenzo[a,d]cycloheptene-10-acetate for the ethyl (R)-10,11-dihydro-3-[3-(pyridin-2-ylamino)-1-propyloxy]-5H-dibenzo[a,d]cycloheptene-10-acetate. The reaction was acidified with glacial HOAc, and the crude product was desalted by chromatography on XAD-2 resin to afford the title compound as a white solid: MS (ES) m/e 478.3 (M+H)+. Anal. Calcd for C30H36FN3O5.1.25 H2O: C, 64.32; H, 6.92; N, 7.50. Found: C, 63.87; H, 6.47: N, 7.96.

reactant | ethyl (±)-10,11-dihydro-2-(dimethylamino)methyl-7-fluoro-3-[3-(pyridin-2-ylamino)-1-propyloxy]-5H-dibenzo[a,d]cycloheptene-10-acetate | CN(C)CC1=CC2=C(CC3=C(C(C2)CC(=O)OCC)C=CC(=C3)F)C=C1OCCCNC1=NC=CC=C1 | C30H36FN3O3
reactant | ethyl (R)-10,11-dihydro-3-[3-(pyridin-2-ylamino)-1-propyloxy]-5H-dibenzo[a,d]cycloheptene-10-acetate | N1=C(C=CC=C1)NCCCOC=1C=CC2=C(CC3=C([C@H](C2)CC(=O)OCC)C=CC=C3)C1 | C27H30N2O3
solvent | HOAc | CC(=O)O | C2H4O2
product | (±)-10,11-Dihydro-2-(dimethylamino)methyl-7-fluoro-3-[3-(pyridin-2-ylamino)-1-propyloxy]-5H-dibenzo[a,d]cycloheptene-10-acetic Acid | CN(C)CC1=CC2=C(CC3=C(C(C2)CC(=O)O)C=CC(=C3)F)C=C1OCCCNC1=NC=CC=C1 | C28H32FN3O3
